US05488055
A mixture of acrylonitrile (15.3 g, 0.289 mol) and ethanol (75 ml) was stirred in an ice-bath and then hydrazine hydrate (15 ml, 0.3 mol) was added dropwise and the mixture was warmed to room temperature and stirred for 2 hours. Benzaldehyde (30.6 ml, 0.3 mol) was then added and the reaction mixture was stirred at room temperature for about 2 days. The react ion mixture was concentrated in vacuo and the residue was added to a solution of sodium butoxide in butanol [prepared from sodium metal (6.9 g) and butanol (300 ml)]. The reaction mixture was refluxed overnight and then the solvent was concentrated in vacuo to afford 19.4 g of crude 5-amino-1-phenyl methylpyrazole.

reactant | acrylonitrile | 0.289 mol, 15.3 g | C(C=C)#N | C3H3N
reactant | hydrazine hydrate | 0.3 mol, 15 ml | O.NN
reactant | Benzaldehyde | 0.3 mol, 30.6 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | ethanol | 75 ml | C(C)O | C2H6O
product | 5-amino-1-phenyl methylpyrazole | 19.4 g | NC1=CC(=NN1C1=CC=CC=C1)C | C10H11N3
